US08957070B2
Methyl 7-[(2-thienylsulfonyl)amino]-1H-pyrrolo[2,3-c]pyridine-2-carboxylate
A mixed solution of methyl 7-amino-1H-pyrrolo[2,3-c]pyridine-2-carboxylate (0.40 g), thiophene-2-sulfonyl chloride (0.48 g) and N,N-dimethylacetamide (20 ml) was stirred at 120° C. for 18 hr. The reaction solution was diluted with ethyl acetate, washed with aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=2:8-1:1) to give the title compound (10.5 mg, yield 1.5%) as pale-yellow crystals. melting point 159-160° C.

reactant | methyl 7-amino-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 0.40 g | NC=1N=CC=C2C1NC(=C2)C(=O)OC | C9H9N3O2
reactant | thiophene-2-sulfonyl chloride | 0.48 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 7-[(2-thienylsulfonyl)amino]-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 10.5 mg, yield 1.5% | S1C(=CC=C1)S(=O)(=O)NC=1N=CC=C2C1NC(=C2)C(=O)OC | C13H11N3O4S2
